US04140778
PREPARATION OF N-(2,3,5,6-TETRAFLUORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)AMINE
Sodium hydride (2.0 grams of 50% oil dispersion) was washed with pentane, filtered, and cooled to 0° C. A solution of 4-nitro-2-trifluoromethylaniline (6.1 grams; 0.030 mole) in 25 ml. of DMF was added over a five-minute period. The reaction mixture was allowed to stir for one hour, the temperature rising as high as 10° C. The reaction mixture was then cooled back down to 0° C. and pentafluoropyridine (5.0 grams; 0.030 mole) in 25 ml. of DMF was added. The reaction mixture was allowed to stir without further cooling for about sixteen hours, then poured over 1.8 liter of crushed ice and the volume adjusted to 1.8 liter with water. A precipitate formed and was allowed to remain in the reaction mixture for about twenty-four hours. The precipitate was then separated by filtration. It was recrystallized from ethanol, yielding 2.6 grams of a first crop (m.p. 104°-5° C.; U.S. Pat. No. 3,926,611 reports 107.7-108) and 3.0 grams of a second crop. Elemental analysis of the first crop showed

reactant | 4-nitro-2-trifluoromethylaniline | 0.030 mole, 6.1 grams | [N+](=O)([O-])C1=CC(=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | pentafluoropyridine | 0.030 mole, 5.0 grams | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
solvent | water | O | H2O
product | N-(2,3,5,6-TETRAFLUORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)AMINE | FC1=NC(=C(C(=C1F)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)F)F | C12H4F7N3O2
